### PR TITLE
feat: birthday of `round` function

### PR DESCRIPTION
**Pull request by vihdzp**
Lemmas split off from #263.

### CODE REVIEW

File: CombinatorialGames/Surreal/Birthday/Basic.lean [hunk 1]
```diff
@@ -94,22 +100,67 @@ theorem birthday_ofNat (n : ℕ) [n.AtLeastTwo] : birthday ofNat(n) = n :=
...
+  apply h.gameBirthday_le.lt_of_not_ge
   contrapose he
   obtain ⟨z, _, hz, hz'⟩ := birthday_eq_iGameBirthday (.mk x)
   rw [← hz'] at he
   rw [eq_comm, mk_eq_mk] at hz
   exact hz.trans <| (h.congr hz).equiv_of_forall_birthday_le fun w _ hw ↦
-    he.trans (hw.birthday_le.trans <| birthday_mk_le _)
+    he.trans (hw.gameBirthday_le.trans <| birthday_mk_le _)
+
+theorem _root_.IGame.Fits.surrealBirthday_le {x y : IGame} [Numeric x] [Numeric y] (h : Fits x y) :
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Birthday/Basic.lean:120]: FYI: these theorems don't follow from the game versions, nor viceversa, unless we've already proven the result that `(toGame x).birthday = x.birthday` from the `Cut` file.

Comment (plp127) [reply CombinatorialGames/Surreal/Birthday/Basic.lean:120]: Surely the game version followed from the surreal version?

Comment (plp127) [reply CombinatorialGames/Surreal/Birthday/Basic.lean:120]: I guess the work to show one follows from the other is not less than the with to just prove both of them

Comment (vihdzp) [reply CombinatorialGames/Surreal/Birthday/Basic.lean:120]: Yeah, I couldn't manage simpler proofs unless I put them in the other file.
